US07572819B2
N-[(2S)-5-(2,6-difluoro-3-pyridinyl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide
To a solution of (2,6-difluoro-3-pyridinyl)boronic acid (2 g, 12.56 mmol) in dry 1,4 dioxane (30 ml), polymer supported Pd(PPh3)4 (126 mg, 0.5 mmol/g, 0.063 mmol) was added along with N-[(2S)-5-bromo-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide (2 g, 6.28 mmol) and 7.3 ml of a 2M Na2CO3 solution in water and the resulting mixture was heated at 90° degrees for 3 hours. Then after cooling the resin was removed by filtration and then the solvent was removed under reduced pressure. The residue was taken up with AcOEt and water. The aqueous phase was separated and acidified with 3N HCl and extracted with AcOEt. Then pH was reverted to basic by addition of NaHCO3 and another extraction with AcOEt was performed. All the organic extracts were collected, dried on Na2SO4, filtered and evaporated. The crude was finally purified on a 40M+ silica cartridge eluting with a cyclohexane/AcOEt 80/20 mixture. 798 mg of title compound were recovered as whitish solid (36%) Due to the use of the chiral Intermediate 6, the title compound is believed to be N-[(2S)-5-(2,6-difluoro-3-pyridinyl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide.

reactant | (2,6-difluoro-3-pyridinyl)boronic acid | 12.56 mmol, 2 g | FC1=NC(=CC=C1B(O)O)F | C5H4BF2NO2
reactant | N-[(2S)-5-bromo-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide | 6.28 mmol, 2 g | BrC=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C | C12H16BrNO2S
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4 dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.063 mmol, 126 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[(2S)-5-(2,6-difluoro-3-pyridinyl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide | FC1=NC(=CC=C1C=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C)F | C17H18F2N2O2S
